US07820665B2
Step 1. 6-Chloroimidazo[1,2-b]pyridazine-2-carbonyl chloride
To a 250-mL, round-bottomed flask was added 6-chloroimidazo[1,2-b]pyridazine-2-carboxylic acid (2.0 g, 10 mmol, Maybridge, Cornwall, UK) and CH2Cl2 (40 mL). To the mixture was added oxalyl chloride (20 mL, 40 mmol, 2 M in CH2Cl2) and DMF (8.0 μL, 0.10 mmol). The mixture was stirred for 1.5 h at 25° C. Toluene (10 mL) was added and the mixture was concentrated to afford the title compound which was taken on to the next step without further purification.

reactant | 6-chloroimidazo[1,2-b]pyridazine-2-carboxylic acid | 10 mmol, 2.0 g | ClC=1C=CC=2N(N1)C=C(N2)C(=O)O | C7H4ClN3O2
reactant | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
reactant | oxalyl chloride | 40 mmol, 2 M, 20 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 0.10 mmol, 8.0 μL | CN(C)C=O | C3H7NO
solvent | Toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 6-Chloroimidazo[1,2-b]pyridazine-2-carbonyl chloride | ClC=1C=CC=2N(N1)C=C(N2)C(=O)Cl | C7H3Cl2N3O
